US07799775B2
A mixture of 1.10 g of methyl 5-oxo-hexanoate as synthesized in above step 7-14-A, 1.36 g of 2-piperazin-1-ylquinoline, 20 mg of p-toluenesulfonic acid and 50 ml of toluene was heated under reflux for 16 hours, and the formed water was azeotropically removed. The solvent was concentrated under reduced pressure. The residue was dissolved in 50 ml of tetrahydrofuran, and the solution was stirred at room temperature for an hour while hydrogen chloride gas was introduced thereinto. Then 380 mg of sodium cyanotrihydroborate as dissolved in 10 ml of methanol was added, followed by 2 hours' stirring. To the solution, 0.1N aqueous potassium hydroxide was added, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was concentrated under reduced pressure. The residue was purified on silica gel column chromatography (ethyl acetate:n-hexane=1:1) to provide 977 mg (45%) of methyl 5-(4-quinoline-2-ylpiperazin-1-yl)hexanoate.

reactant | methyl 5-oxo-hexanoate | 1.10 g | O=C(CCCC(=O)OC)C | C7H12O3
reactant | 2-piperazin-1-ylquinoline | 1.36 g | N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | C13H15N3
catalyst | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 5-(4-quinoline-2-ylpiperazin-1-yl)hexanoate | 977 mg, 45% | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)C(CCCC(=O)OC)C | C20H27N3O2
